US07598417B2
4-Nitro-indan-1-one O-methyl-oxime:
To a solution of 4-nitroindane-1-one (4.75 g, 26.81 mmol) in MeOH was added methoxyl amine hydrochloride (4.50 g, 53.88 mmol) and triethyl amine (7.50 mL, 53.81 mmol). After refluxing overnight, the reaction mixture was cooled to room temperature and extracted with EtOAc (3×200 mL). The combined organic extracts were washed with H2O (3×200 mL), brine (1×200 mL), dried over MgSO4 and concentrated. Purification by column chromatography using hex: Et2O (4:1) as eluant afforded 5.31 g (97% yield) of the title compound. Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ (1st isomer) 2.92-2.98 (m, 2H), 3.50-3.56 (m, 2H), 4.01 (s, 3H), 7.45 (t, J=7.62 Hz, 1H), 8.00 (d, J=7.33 Hz, 1H), 8.20 (d, J=7.92 Hz, 1H). 2nd isomer: 2.90-2.98 (m, 2H), 3.49-3.58 (m, 2H), 4.02 (s, 3H), 7.45 (t, J=8.21 Hz, 1H), 8.19 (d, J=8.21 Hz, 1H), 8.66 (d, J=7.92 Hz, 1H).

reactant | 4-nitroindane-1-one | 26.81 mmol, 4.75 g | [N+](=O)([O-])C1=C2CCC(C2=CC=C1)=O | C9H7NO3
reactant | methoxyl amine hydrochloride | 53.88 mmol, 4.50 g | Cl.O(C)N
reactant | triethyl amine | 53.81 mmol, 7.50 mL | C(C)N(CC)CC | C6H15N
reactant | Et2O | CCOCC | C4H10O
solvent | MeOH | CO | CH4O
product | 4-Nitro-indan-1-one O-methyl-oxime | 5.31 g, 97% yield | CON=C1CCC2=C(C=CC=C12)[N+](=O)[O-] | C10H10N2O3
